US07943619B2
6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid isopropylamide
To a solution of (6-iodo-pyridazine-3-yl)-(5-methyl-3-phenyl-isoxazol-4ylmethyl)-amine (300 mg, 0.76 mmol) in DMF (3 mL) was added isopropylamine (0.66 ml, 7.6 mmol), triphenylphosphine (20 mg, 0.08 mmol) and palladium(II) acetate (17 mg, 0.08 mmol). The resulting mixture was stirred at room temperature for 16 h under a carbon monoxide atmosphere. After evaporation of the solvent the residue was extracted (ethyl acetate/water). The organic phase was dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 20:80) to afford the title compound (55 mg, 20%) as a light yellow oil. MS: m/e=352.3 [M+H]+.

reactant | (6-iodo-pyridazine-3-yl)-(5-methyl-3-phenyl-isoxazol-4ylmethyl)-amine | 0.76 mmol, 300 mg | IC1=CC=C(N=N1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C15H13IN4O
reactant | isopropylamine | 7.6 mmol, 0.66 ml | C(C)(C)N | C3H9N
reactant | triphenylphosphine | 0.08 mmol, 20 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.08 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid isopropylamide | 55 mg, 20% | C(C)(C)NC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C19H21N5O2
